US05656629
A suspension of 97% NaH (3.0 g, 0.12 mol) in DMF (100 mL) was stirred for 0.5 hours, then benzimidazole (11.8 g, 0.1 mol) in DMF (50 mL) was added over 30 minutes, followed by ethyl bromoacetate (20 g, 0.12 mol) in DMF (50 mL). The reaction mixture was stirred at room temperature overnight, NH4Cl was added, and the reaction mixture was stipped. Water was added to the residue, and it was extracted with CH2Cl2 (3×200mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was treated with ethyl acetate, a white solid was collected by filtration and the filtrate was concentrated in vacuo and the residue was recrystallized from water to afford 8.0 g of 1-(ethoxycarbonylmethyl)benzimidazole, m.p. 63°-64° C.

reactant | NaH | 0.12 mol, 3.0 g | [H-].[Na+]
reactant | benzimidazole | 0.1 mol, 11.8 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | ethyl bromoacetate | 0.12 mol, 20 g | BrCC(=O)OCC | C4H7BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 1-(ethoxycarbonylmethyl)benzimidazole | 8.0 g | C(C)OC(=O)CN1C=NC2=C1C=CC=C2 | C11H12N2O2
